US09260427B2
To stirring suspension of 4-(heptyloxy)benzamide (1.24 g, 5.29 mmol) in DME (20 mL) and THF (10 mL) was added 2,4-bis(4-phenoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (2.80 g, 5.29 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was concentrated onto silica and purified by column chromatography (0-60% EA in iso-hexanes) to afford 1.4 g (62%) of 4-(heptyloxy)benzothioamide as a yellow waxy solid. LCMS-ESI (m/z) calculated for C14H21NOS, 251.4. found 252.0 [M+H]+, tR=3.13 min. (Method 6).

reactant | 4-(heptyloxy)benzamide | 5.29 mmol, 1.24 g | C(CCCCCC)OC1=CC=C(C(=O)N)C=C1 | C14H21NO2
reactant | 2,4-bis(4-phenoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 5.29 mmol, 2.80 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC1=CC=CC=C1)=S)=S | C24H18O2P2S4
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(heptyloxy)benzothioamide | 1.4 g, 62% | C(CCCCCC)OC1=CC=C(C(N)=S)C=C1 | C14H21NOS
